US04230716
3-n-Butyl-5-hydroxymethylhydantoin
DL-Serine (5.0 g) was dissolved in water (25 ml) containing sodium hydroxide (23.8 ml, 2N) and the mixture cooled to 0° C., stirred and n-butyl isocyanate (9.4 g) added. The mixture was stirred at 0° C. for 2 hours then allowed to rise to room temperature overnight, filtered and the filtrate acidified with concentrated hydrochloric acid (50 ml) and heated on a steam-bath for 2 hours. The mixture was cooled and extracted with ether (3×100 ml). Removal of the ether gave an oil which rapidly crystallised and the title product recrystallised from carbon tetrachloride as small cubes, m.p. 93° C. Yield 5.1 g=57%.

reactant | DL-Serine | 5.0 g | NC(CO)C(=O)O | C3H7NO3
reactant | sodium hydroxide | 2N, 23.8 ml | [OH-].[Na+]
reactant | n-butyl isocyanate | 9.4 g | C(CCC)N=C=O | C5H9NO
solvent | water | 25 ml | O | H2O
product | 3-n-Butyl-5-hydroxymethylhydantoin | C(CCC)N1C(NC(C1=O)CO)=O | C8H14N2O3
